US06562989B2
Ethyl 2-(3,4-Methylenedioxyphenyl)cyanoacetate (Table 22, Entry 4)
Method B of the above general procedure was followed using 4-chloro-1,2-(methylenedioxy)benzene (157 mg, 1.00 mmol) and ethyl cyanoacetate (124 mg, 1.10 mmol). The reaction mixture was purified by column chromatography on silica gel (1:3 dichloromethane/hexanes) to give the desired product (191 mg, 82%) as a colorless oil: 1H NMR (CDCl3) δ 6.93-6.90 (m, 2H), 6.83-6.80 (m, 1H), 6.00 (s, 2H), 4.62 (s, 1H), 4.30-4.19 (m, 2H), 1.29 (t, 7.2 Hz, 3H). 13C{1H} NMR (CDCl3) δ 165.07, 148.46, 148.44, 123.33, 121.76, 115.75, 108.79, 108.25, 101.68, 63.34, 43.31, 13.92. Anal. Calcd. for C12H11NO4: C, 61.80; H, 4.75; N, 6.01. Found: C, 62.08: H, 4.62: N, 6.13.

reactant | 4-chloro-1,2-(methylenedioxy)benzene | 1.00 mmol, 157 mg | ClC1=CC2=C(C=C1)OCO2 | C7H5ClO2
reactant | ethyl cyanoacetate | 1.10 mmol, 124 mg | C(#N)CC(=O)OCC | C5H7NO2
product | Ethyl 2-(3,4-Methylenedioxyphenyl)cyanoacetate | 191 mg, 82% | C1OC=2C=C(C=CC2O1)C(C(=O)OCC)C#N | C12H11NO4
